### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField/Completion/FinitePlace): add multiplicity lemmas

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds some more API for multiplicities of prime ideals in factorizations (and some more basic API lemmas, too), in preparation for a proof of the Northcott property for heights on number fields.

We also extend the API for `HasFinite{Mul|}Support` a bit.

---

- [x] depends on: #38654

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 1]
```diff
@@ -54,6 +54,10 @@ variable (K L : Type*) [Field K] [Field L]
 -- See note [lower instance priority]
 attribute [instance] NumberField.to_charZero NumberField.to_finiteDimensional
 
+lemma one_le_finrank_rat [NumberField K] : 1 ≤ Module.finrank ℚ K := by
+  rw [Nat.one_le_iff_ne_zero, Ne, Module.finrank_eq_zero_iff_of_free]
+  exact not_subsingleton K
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: We have `Module.finrank_pos` in much greater generality.

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 2]
```diff
@@ -411,6 +415,25 @@ theorem mem_span_integralBasis {x : K} :
 theorem RingOfIntegers.rank : Module.finrank ℤ (𝓞 K) = Module.finrank ℚ K :=
   IsIntegralClosure.rank ℤ ℚ K (𝓞 K)
 
+variable {K}
+
+lemma exists_zsmul_eq_integer (x : K) : ∃ (m : ℤ) (r : 𝓞 K), m ≠ 0 ∧  m • x = r := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: This should also generalize quite substantially (`x` just needs to be algebraic, I think?)

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean [hunk 3]
```diff
@@ -393,6 +400,14 @@ theorem hasFiniteMulSupport {x : K} (h_x_nezero : x ≠ 0) :
 
 @[deprecated (since := "2026-03-03")] alias mulSupport_finite := hasFiniteMulSupport
 
+lemma hasFiniteMulSupport_fun_pow_multiplicity {M : Type*} [CommMonoid M] {I : Ideal (𝓞 K)}
+    (hI : I ≠ ⊥) (f : Ideal (𝓞 K) → M) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean:398]: Does this generalize to `IsIntegralClosure`?

File: Mathlib/NumberTheory/NumberField/Basic.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: OK.

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean:398]: No, because `NumberField.FinitePlace.maximalIdeal` gives something of type `HeightOneSpectrum (𝓞 K)`. So, if we work with `NumberField.FInitePlace`, `𝓞 K` is basically baked in.

File: Mathlib/NumberTheory/NumberField/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: I want to use `exists_nsmul_eq_integer` (whose prove is based on this one here) in the form stated below (in one of the lemmas on the way to Northcott). The lemma here can probably be generalized to `x` that are algebraic over the rationals; I'll try.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: In any case, the proof doesn't immediately generalize; `K` is not necessarily the localization of the ring `R` in the nonzerodivisors of `ℤ`.

Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: But if `R` is the integral closure of `Z` in `K`?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: This is definitely needed; I found a more direct proof for this.

File: Mathlib/NumberTheory/NumberField/Basic.lean [hunk 4]
```diff
@@ -413,6 +413,27 @@ theorem RingOfIntegers.rank : Module.finrank ℤ (𝓞 K) = Module.finrank ℚ K
 
 end NumberField
 
+namespace IsAlgebraic
+
+variable {R K : Type*} [Field K] [CommRing R] [Algebra R K] [CharZero K] [IsIntegralClosure R ℤ K]
+
+lemma exists_zsmul_eq {x : K} (hx : IsAlgebraic ℚ x) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Basic.lean]: Can you replace `IsAlgebraic Q` with `IsAlgebraic Z`? Then you should be able to generalize Z to an arbitrary ring?

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean [hunk 5]
```diff
@@ -359,12 +359,19 @@ noncomputable def equivHeightOneSpectrum :
   left_inv := mk_maximalIdeal
   right_inv := maximalIdeal_mk
 
+lemma equivHeightOneSpectrum_apply (v : FinitePlace K) :
+    v.equivHeightOneSpectrum = v.maximalIdeal := rfl
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: Should this be called `coe_equivHeightOneSpectrum` or something? Can you check if it's autogenerated by `@[simps]`?

File: Mathlib/NumberTheory/NumberField/Basic.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Basic.lean]: Working on it...

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: `@[simps apply]` does it (without the `apply` it also generates a `symm_apply` lemma that is different from the existing one).

**Comment by MichaelStollBayreuth** [comment]
@tb65536 Thanks for pushing for generalizations!

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 6]
```diff
@@ -571,3 +571,27 @@ lemma isAlgebraic_of_isFractionRing {R S} (K L) [CommRing R] [CommRing S] [Field
...
+  exact ⟨m, r, hm, hr.symm⟩
+
+/-- If `x : K` is algebraic over `ℤ`, then a nonzero `ℕ`-multiple of it is contained in the
+integral closure of `ℤ` in `K`. -/
+lemma exists_nsmul_eq {x : K} [IsIntegralClosure R ℤ K] (hx : IsAlgebraic ℤ x) :
+    ∃ (m : ℕ) (r : R), m ≠ 0 ∧ m • x = algebraMap R K r := by
+  obtain ⟨a, r, ha, h⟩ := hx.exists_smul_eq R
+  obtain ⟨n, rfl | rfl⟩ := a.eq_nat_or_neg
+  · exact ⟨n, r, mod_cast ha, mod_cast h⟩
+  · exact ⟨n, -r, by simpa using ha, by simp [← h]⟩
```
Comment (tb65536) [inline Mathlib/RingTheory/Localization/Integral.lean]: I think you can move these to `Mathlib.RingTheory.Algebraic.Integral`.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 7]
```diff
@@ -571,3 +571,27 @@ lemma isAlgebraic_of_isFractionRing {R S} (K L) [CommRing R] [CommRing S] [Field
     apply IsIntegral.tower_top (R := R)
     apply IsIntegral.map (IsScalarTower.toAlgHom R S L)
     exact Algebra.IsIntegral.isIntegral (s : S)
+
+namespace IsAlgebraic
+
+variable {Z : Type*} [CommRing Z] [IsDomain Z] (R : Type*) [CommRing R] {K : Type*} [Field K]
+  [Algebra R K] [Algebra Z K] [IsIntegralClosure R Z K]
```
Comment (tb65536) [inline Mathlib/RingTheory/Localization/Integral.lean]: Can you generalize these typeclasses further?

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Localization/Integral.lean]: Right, the new proof does not rely on localizations anymore...

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Localization/Integral.lean]: I can weaken `[Field K]` to `[CommRing K]`, but I doubt one can go further.

File: Mathlib/RingTheory/Algebraic/Integral.lean [hunk 8]
```diff
@@ -192,6 +192,32 @@ theorem iff_exists_smul_integral [IsReduced R] :
   ⟨(exists_integral_multiple ·), fun ⟨_, hy, int⟩ ↦
     of_smul_isIntegral (by rwa [isNilpotent_iff_eq_zero]) int⟩
 
+section integralClosure
+
+variable [IsDomain R] {K : Type*} [CommRing K] [Algebra S K] [Algebra R K] [IsIntegralClosure S R K]
```
Comment (tb65536) [inline Mathlib/RingTheory/Algebraic/Integral.lean]: I think the existing variable `A` plays the same role as your `K`?

File: Mathlib/RingTheory/Algebraic/Integral.lean [hunk 9]
```diff
@@ -192,6 +192,32 @@ theorem iff_exists_smul_integral [IsReduced R] :
...
+
+variable (S)
+
+omit [Algebra R S] in
+/-- If `x : K` is algebraic over some ring `R`, then a nonzero `R`-multiple of it is contained
+in the integral closure of `R` in `K`. -/
+lemma exists_smul_eq {x : K} (hx : IsAlgebraic R x) :
+    ∃ (r : R) (s : S), r ≠ 0 ∧ r • x = algebraMap S K s := by
+  obtain ⟨r, hr, h⟩ := iff_exists_smul_integral.mp hx
```
Comment (tb65536) [inline Mathlib/RingTheory/Algebraic/Integral.lean]: I think this avoids `[IsDomain R]`.
```suggestion
  obtain ⟨r, hr, h⟩ := hx.exists_integral_multiple
```

File: Mathlib/RingTheory/Algebraic/Integral.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Algebraic/Integral.lean]: I need `[CommRing K]`, whereas we have `[Ring A]`, and there is the unnecessary `[IsScalarTower R S A]` instance around.

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean [hunk 10]
```diff
@@ -365,6 +366,10 @@ lemma maximalIdeal_injective : (fun w : FinitePlace K ↦ maximalIdeal w).Inject
 lemma maximalIdeal_inj (w₁ w₂ : FinitePlace K) : maximalIdeal w₁ = maximalIdeal w₂ ↔ w₁ = w₂ :=
   equivHeightOneSpectrum.injective.eq_iff
 
+lemma asIdeal_maximalIdeal_injective :
+    (fun v : FinitePlace K ↦ v.maximalIdeal.asIdeal).Injective :=
+  fun ⦃_ _⦄ h ↦ (FinitePlace.maximalIdeal_inj ..).mp <| HeightOneSpectrum.ext h
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: I find this a bit strange because this just just saying that a composition of two injective functions is injective. What about adding the injectivity lemmas for `maximalIdeal` and `asIdeal`, and the composing manually when you need them? (This seems more efficient in the long run than adding pair composition injectivity lemmas as needed).

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: OK; I have done so. My motivation was that the composition `v.maximalIdeal.asIdeal` comes up fairly frequently, so that it may be convenient to have a shortcut lemma. But maybe it is better to wait and see if we really need it more than once...

**Comment by MichaelStollBayreuth** [comment]
Is there anything else to be done here? @tb65536

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean [hunk 11]
```diff
@@ -393,6 +394,14 @@ theorem hasFiniteMulSupport {x : K} (h_x_nezero : x ≠ 0) :
 
 @[deprecated (since := "2026-03-03")] alias mulSupport_finite := hasFiniteMulSupport
 
+lemma hasFiniteMulSupport_fun_pow_multiplicity {M : Type*} [CommMonoid M] {I : Ideal (𝓞 K)}
+    (hI : I ≠ ⊥) (f : Ideal (𝓞 K) → M) :
+    (fun v : FinitePlace K ↦
+      (f v.maximalIdeal.asIdeal) ^ multiplicity v.maximalIdeal.asIdeal I).HasFiniteMulSupport := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: Does this lemma generalize at all? (An arbitrary function to the power of `multiplicity` in a unique factorization monoid has finite mul support?) Or the exponent can be any function with `Function.HasFiniteSupport`?

File: Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean [hunk 12]
```diff
@@ -510,6 +510,12 @@ theorem prime : Prime v.asIdeal := Ideal.prime_of_isPrime v.ne_bot v.isPrime
 instance : Coe (HeightOneSpectrum R) (Ideal R) where
   coe P := P.asIdeal
 
+omit [IsDedekindDomain R] in
+lemma asIdeal_injective : (fun v : HeightOneSpectrum R ↦ v.asIdeal).Injective :=
```
Comment (tb65536) [inline Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]: Would something like this work?
```suggestion
lemma asIdeal_injective : (HeightOneSpectrum.asIdeal (R := R)).Injective :=
```

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean [hunk 13]
```diff
@@ -414,6 +423,17 @@ alias IsDedekindDomain.HeightOneSpectrum.equivHeightOneSpectrum_symm_apply :=
 @[deprecated (since := "2026-03-11")]
 alias IsDedekindDomain.HeightOneSpectrum.embedding_mul_absNorm := embedding_mul_absNorm
 
+lemma finprod_finitePlace_pow_multiplicity {I : Ideal (𝓞 K)} (hI : I ≠ 0) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: You use `I ≠ 0` here and `I ≠ ⊥` above. Do you know which is preferred?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: No. Statistically, `⊥` seems to be more frequent (loogle gives 214 hits and only 28 for `0`; there are even a declaration that use both versions in the arguments: [Ideal.count_associates_factors_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.html#Ideal.count_associates_factors_eq)). In any case, they are defeq.
Should I change to `⊥` here for consistency?

Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: Yeah, that would be good, I think.

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean (hunk 11 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: I can offer the following.
```lean
import Mathlib

@[fun_prop]
lemma Function.HasFiniteSupport.hasFiniteMulSupport_fun_pow {M S : Type*} [CommMonoid M] (f : S → M)
    {g : S → ℕ} (hg : g.HasFiniteSupport) :
    (fun s : S ↦ f s ^ g s).HasFiniteMulSupport := by
  refine Set.Finite.subset hg fun s hs ↦ ?_
  simp only [Function.mem_mulSupport, Function.mem_support] at hs ⊢
  contrapose! hs
  simp [hs]

@[fun_prop]
lemma Multiset.hasFiniteSupport_count {α : Type*} [DecidableEq α] (s : Multiset α) :   
    (count · s).HasFiniteSupport :=
    s.toFinset.finite_toSet.subset <| by simp
  
namespace UniqueFactorizationMonoid

lemma hasFiniteMulSupport_fun_pow_multiplicity {M R S : Type*} [CommMonoid M] [CommMonoidWithZero R]
    [UniqueFactorizationMonoid R] [Subsingleton Rˣ] (f : R → M) {g : S → R} (hgi : g.Injective)
    (hg : ∀ s, Irreducible (g s)) {r : R} (hr : r ≠ 0) :
    (fun s : S ↦ (f (g s)) ^ multiplicity (g s) r).HasFiniteMulSupport := by
  classical
  simp only [multiplicity_eq_count_normalizedFactors (hg _) hr, normalize_eq]
  fun_prop
```

Then (in the present context)
```lean
lemma hasFiniteMulSupport_fun_pow_multiplicity {M : Type*} [CommMonoid M] {I : Ideal (𝓞 K)}
    (hI : I ≠ ⊥) (f : Ideal (𝓞 K) → M) :
    (fun v : FinitePlace K ↦
      (f v.maximalIdeal.asIdeal) ^ multiplicity v.maximalIdeal.asIdeal I).HasFiniteMulSupport :=
  UniqueFactorizationMonoid.hasFiniteMulSupport_fun_pow_multiplicity f
    (asIdeal_injective.comp maximalIdeal_injective)
    (fun v : FinitePlace K ↦ irreducible v.maximalIdeal) hI
```
Would it still make sense to have this specialization?
(In the follow-up PR, this result is used twice in the proof of the new lemma; of course, I could do the specialization within that proof.)

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean (hunk 13 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: OK.

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean (hunk 11 above)
Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: Yeah, something like that seems reasonable. Although in `hasFiniteMulSupport_fun_pow_multiplicity` I assume you can use `(f s) ^ multiplicity (g s) r` instead of  `(f (g s)) ^ multiplicity (g s) r`? (with now `f : S → M`?)

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: Right. I'll add these now.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 14]
```diff
@@ -181,6 +183,40 @@ lemma HasFiniteMulSupport.of_comp [One β] (hfg : (f ∘ g).HasFiniteMulSupport)
...
   grind
 
+@[to_additive (attr := fun_prop)]
+lemma HasFiniteSupport.hasFiniteMulSupport_fun_pow {M : Type*} [Monoid M] (f : α → M) {g : α → ℕ}
+    (hg : g.HasFiniteSupport) :
+    (fun a : α ↦ f a ^ g a).HasFiniteMulSupport := by
+  refine Set.Finite.subset hg fun a ha ↦ ?_
+  simp only [Function.mem_mulSupport, Function.mem_support] at ha ⊢
+  contrapose! ha
+  simp [ha]
```
Comment (tb65536) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: If you want:
```suggestion
  contrapose! ha
  simp_all
```

**Comment by MichaelStollBayreuth** [comment]
This last commit increases the import closure of `Mathlib.Algebra.FiniteSupport.Basic` quite a bit, but is should be harmless overall: all other files gain at most 4 imports.

**Comment by MichaelStollBayreuth** [comment]
Moving the `smul` lemmas to their own file now -- importing `Mathlib.Algebra.Module.Basic` is not allowed in some downstream files.

**Comment by MichaelStollBayreuth** [comment]
After realizing that the `public` imports can be reduced to be harmless, I've moved the `smul` lemmas back again. My point from above on the "large-import" label still stands.

**Comment by MichaelStollBayreuth** [comment]
I think I'm now done with working on the `HasFinite{Mul|}Support` API. Any further input? @tb65536

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean [hunk 15]
```diff
@@ -393,6 +394,14 @@ theorem hasFiniteMulSupport {x : K} (h_x_nezero : x ≠ 0) :
 
 @[deprecated (since := "2026-03-03")] alias mulSupport_finite := hasFiniteMulSupport
 
+lemma hasFiniteMulSupport_fun_pow_multiplicity {M : Type*} [CommMonoid M] {I : Ideal (𝓞 K)}
+    (hI : I ≠ ⊥) (f : Ideal (𝓞 K) → M) :
+    (fun v : FinitePlace K ↦
+      f v.maximalIdeal.asIdeal ^ multiplicity v.maximalIdeal.asIdeal I).HasFiniteMulSupport := by
+  have (v : FinitePlace K) := irreducible v.maximalIdeal
+  have := asIdeal_injective (R := 𝓞 K) |>.comp maximalIdeal_injective
+  fun_prop (disch := assumption) -- `disch` is necessary, assumptions are not "equal enough"
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: I'm not sure if fun_prop really adds clarity here? (right now it feels like "here are some random assumptions, and now I'm going to invoke a secret lemma", and if anything breaks in the future it might not be so clear what's going on)
```suggestion
      f v.maximalIdeal.asIdeal ^ multiplicity v.maximalIdeal.asIdeal I).HasFiniteMulSupport :=
  UniqueFactorizationMonoid.hasFiniteMulSupport_fun_pow_multiplicity _
    (asIdeal_injective.comp maximalIdeal_injective) (fun v ↦ v.maximalIdeal.irreducible) hI
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean (hunk 15 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/NumberField/Completion/FinitePlace.lean]: The code says "`fun_prop` can prove this, if it is told that the side conditions are satisfied" (if `fun_prop` could deal with injectivity, the second `have` would not even be needed). But I can revert to the explicit version.

**Comment by faenuccio** [comment]
Thanks

bors d+
